US04678826
N-Cyclohexyl-3-[(N,N-dibenzylamino)oxy]pyrrolidine-2,5-dione
The procedure of Example 1 is repeated using 5.33 g (25 mmole) of N,N-dibenzylhydroxylamine and 4.48 g (25 mmole) of N-cyclohexylmaleimide. The residue was crystallized from ethanol to give 6.0 g (61%) of a white solid, mp 75°-77° C.

reactant | N,N-dibenzylhydroxylamine | 25 mmole, 5.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | N-cyclohexylmaleimide | 25 mmole, 4.48 g | C1(CCCCC1)N1C(C=CC1=O)=O | C10H13NO2
product | N-Cyclohexyl-3-[(N,N-dibenzylamino)oxy]pyrrolidine-2,5-dione | 6.0 g, 61% | C1(CCCCC1)N1C(C(CC1=O)ON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C24H28N2O3
